US09278973B2
A solution of 3-chlorobenzoic acid (30 g, 191.61 mmol) in thionyl chloride (200 ml) was stirred overnight at 90° C. The resulting mixture was concentrated under vacuum to afford 3-chlorobenzoyl chloride as light yellow oil (30 g, 90%).

reactant | 3-chlorobenzoic acid | 191.61 mmol, 30 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chlorobenzoyl chloride | 30 g, 90% | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
